US05387397
(b) Preparation of dimethylaminopropiophenone hydrochloride
A mixture of acetophenone (100 g), paraformaldehyde (25 g) and dimethylamine hydrochloride (68 g) was vigorously stirred and pumped through the CMR (23 ml/min.; 180°-90° C.; 400 kPa). The product tended to crystallise rapidly when cooled, so was collected by passing the hot effluent into a flask which was cooled in ice-water. Analysis by 1H nmr indicated a 44% conversion of acetophenone to product, which was isolated in 29% yield. By conventional methodology8, a crude yield of 71% can be obtained after 2 hours at reflux followed by overnight refrigeration.

reactant | acetophenone | 100 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | paraformaldehyde | 25 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 68 g | Cl.CNC
product | dimethylaminopropiophenone hydrochloride | 29% yield | Cl.CN(C)C(C(=O)C1=CC=CC=C1)C | InChI=1S/C11H15NO.ClH/c1-9(12(2)3)11(13)10-7-5-4-6-8-10;/h4-9H,1-3H3;1H
